series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
R1 in a 984.663743
R2 a b 1967.549104
C3 a b 5.72e-06
R4 b 0 1523.69281
.op
.control
run
print v(a) v(b) v(in)
print @r1[i] @r2[i] @r4[i]
.endc
.end
